US04169897
A solution of 8.1 g (0.023 mole) of 2,7-bis[2-(dimethylamino)ethoxy]fluoren-9-one in 50 ml of methanol and 25 ml of ether is stirred and treated with 0.5 gram of finely powdered sodium carbonate. To this mixture is added 75 g (0.06 mole) of ethyl N-methyl-N-nitrosocarbamate in 20 ml of methanol over a period of 2 hours. The temperature of this reaction mixture is kept below 30° C. for a period of 24 hours. The reaction mixture is then freed of most of the volatile materials in vacuo, dissolved in an aqueous solution of hydrochloric acid, and extracted several times with diethyl ether. The resulting aqueous solution is made strongly alkaline with an aqueous sodium hydroxide solution and extracted with ether. The remaining aqueous solution is neutralized to an approximate pH of 10 using a 10% hydrochloric acid solution and extracted with ether. Evaporation of the combined ether extracts in vacuo and recrystallization from a methanol-water mixture yields the desired 2,7-bis[2-(dimethylamino)ethoxy]- 9-phenanthrol.

reactant | 2,7-bis[2-(dimethylamino)ethoxy]fluoren-9-one | 0.023 mole, 8.1 g | CN(CCOC1=CC=2C(C3=CC(=CC=C3C2C=C1)OCCN(C)C)=O)C | C21H26N2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl N-methyl-N-nitrosocarbamate | 0.06 mole, 75 g | CN(C(OCC)=O)N=O | C4H8N2O3
solvent | methanol | 50 ml | CO | CH4O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
product | 2,7-bis[2-(dimethylamino)ethoxy]- 9-phenanthrol | CN(CCOC1=CC=2C=C(C3=CC(=CC=C3C2C=C1)OCCN(C)C)O)C | C22H28N2O3
